US06734191B2
To a solution of (2-nitrophenyl)-terephthalamic acid methyl ester (0.23 g, 0.76 mmol) in glacial acetic acid (2.5 mL) was added iron powder (<5 μm mesh, 0.12 g, 2.1 mmol) and the mixture stirred at reflux for 1 h. The mixture was cooled, stirred at room temperature for 2 h and concentrated under reduced pressure. The residue was partitioned between saturated sodium bicarbonate (10 mL) and ethyl acetate (10 mL), the phases separated and the organic layer washed with saturated NaHCO3 (10 mL). The organic extract was dried (MgSO4), filtered and concentrated to give cyclized methyl 4-(benzimidazol-2-yl)-benzoate (0.163 g, 86%). 1H NMR (CDCl3) δ3.96 (s, 3H), 7.32 (m, 2H), 7.53 (br, 1H), 7.84 (br, 1H), 8.17 (m, 4H), 9.65 (br, 1H (NR)).

reactant | (2-nitrophenyl)-terephthalamic acid methyl ester | 0.76 mmol, 0.23 g | COC(C1=C(C=C(C(=O)N)C=C1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C15H12N2O5
reactant | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 2.1 mmol, 0.12 g | [Fe] | Fe
product | methyl 4-(benzimidazol-2-yl)-benzoate | 0.163 g, 86% | N1=C(NC2=C1C=CC=C2)C2=CC=C(C(=O)OC)C=C2 | C15H12N2O2
